US06103910
c) (R)-1-[3-[[3-[(R)-2-Carboxy-pyrrolidin-1-yl]-3-oxo-propyl]-propyl-amino]-propionyl]-pyrrolidine-2-carboxylic acid
A solution of 84 mg (0.15 mmol) (R)-1-[3-[[3-[(R)-2-benzyloxycarbonyl-pyrrolidin-1-yl]-3-oxo-propyl]-propyl-amino]-propionyl]-pyrrolidine-2-carboxylic acid benzyl ester in 3 ml ethanol was stirred with 10 mg 10% palladium on carbon under 1 atm of hydrogen for 16 h at room temperature. After filtration to remove the catalyst, concentration in vacuo afforded 58 mg (100%) of the title compound (R)-1-[3-[[3-[(R)-2-carboxy-pyrrolidin-1-yl]-3-oxo-propyl]-propyl- amino]-propionyl]-pyrrolidine-2-carboxylic acid as a white solid. MS m/e (%): 398 (M+H+, 100).

reactant | (R)-1-[3-[[3-[(R)-2-benzyloxycarbonyl-pyrrolidin-1-yl]-3-oxo-propyl]-propyl-amino]-propionyl]-pyrrolidine-2-carboxylic acid benzyl ester | 0.15 mmol, 84 mg | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C(CCN(CCC)CCC(=O)N1[C@H](CCC1)C(=O)OCC1=CC=CC=C1)=O | C33H43N3O6
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 3 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
product | (R)-1-[3-[[3-[(R)-2-Carboxy-pyrrolidin-1-yl]-3-oxo-propyl]-propyl-amino]-propionyl]-pyrrolidine-2-carboxylic acid | 58 mg, 100% | C(=O)(O)[C@@H]1N(CCC1)C(CCN(CCC(=O)N1[C@H](CCC1)C(=O)O)CCC)=O | C19H31N3O6
